US07449475B2
1-Benzyl-3-(5-chloro-2-fluorobenzyl)pyrrolidin-3-ol
To a stirring suspension of magnesium strip (1.39 g, 57.06 mmol) in diethyl ether (10 mL) was added a crystal iodine followed by 0.5 mL of 2-(bromomethyl)-4-chloro-1-fluorobenzene under nitrogen. The reaction was initiated with a high intensity heat gun, then a solution of 2-(bromomethyl)-4-chloro-1-fluorobenzene (12.75 g, 57.06 mmol) in diethyl ether was added at such a speed that gentle reflux was maintained. After addition was complete the reaction mixture was kept on stirring at reflux for 3.5 h, cooled to room temperature and a solution of 1-benzylpyrrolidin-3-one (10.0 g, 57.06 mmol) in diethyl ether (20 mL) was added dropwise with vigorous stirring. After addition was complete the reaction mixture was left overnight at room temperature. This reaction mixture was treated with aqueous ammonium chloride (NH4Cl) solution and extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulphate (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash chromatography (0-2% methanol in dichloromethane, 0.2% ammonium hydroxide, NH4OH) to give the subtitled compound (650 mg).

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-(bromomethyl)-4-chloro-1-fluorobenzene | 0.5 mL | BrCC1=C(C=CC(=C1)Cl)F | C7H5BrClF
reactant | 2-(bromomethyl)-4-chloro-1-fluorobenzene | 57.06 mmol, 12.75 g | BrCC1=C(C=CC(=C1)Cl)F | C7H5BrClF
reactant | 1-benzylpyrrolidin-3-one | 57.06 mmol, 10.0 g | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-Benzyl-3-(5-chloro-2-fluorobenzyl)pyrrolidin-3-ol | 650 mg | C(C1=CC=CC=C1)N1CC(CC1)(O)CC1=C(C=CC(=C1)Cl)F | C18H19ClFNO
